US06861567B2
(b) 2-Bromo-9,9′-spirobifluorene
47.0 g of 2-bromo-9-(biphenyl-2-yl)fluoren-9-ol were refluxed for 2.5 hours in 114 ml of 99.8% acetic acid with addition of 1.5 ml of conc. HCl.

reactant | 2-bromo-9-(biphenyl-2-yl)fluoren-9-ol | 47.0 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C25H17BrO
reactant | HCl | 1.5 ml | Cl | ClH
solvent | acetic acid | 114 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-9,9′-spirobifluorene | BrC1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC=CC13 | C25H15Br
